US04230850
4-(3'-Dimethylaminopropoxy)-3-phenyl-coumarin
By treating 10 g. (0.042 mol) of 3-phenyl-4-hydroxy-coumarin with 87 g. (0.055 mol) of 3-dimethylamino-1-chloropropane hydrochloride as described in Example 1, there are obtained 8.1 g. of a yellow oil which cannot be crystallised. Yield 59% (theoretical yield 13.6 g.).

reactant | 3-phenyl-4-hydroxy-coumarin | 0.042 mol | C1(=CC=CC=C1)C=1C(OC2=CC=CC=C2C1O)=O | C15H10O3
reactant | 3-dimethylamino-1-chloropropane hydrochloride | 0.055 mol | Cl.CN(CCCCl)C
product | 4-(3'-Dimethylaminopropoxy)-3-phenyl-coumarin | Yield 59% | CN(CCCOC1=C(C(OC2=CC=CC=C12)=O)C1=CC=CC=C1)C | C20H21NO3
